US07071201B2
Example 231: Synthesis of 1-[1-(4-fluorophenoxypropyl)-piperdin-4-yl]-6-bromoindoline
1-(Piperidin-4-yl)-6-bromoindoline (1.6 g) and 4-fluorophenoxypropyl bromide (1.6 g) were treated as in Example 2 to give the title compound (2.2 g) as a white powder (yield: 90%).

reactant | 1-(Piperidin-4-yl)-6-bromoindoline | 1.6 g | N1CCC(CC1)N1CCC2=CC=C(C=C12)Br | C13H17BrN2
reactant | 4-fluorophenoxypropyl bromide | 1.6 g | FC1=CC=C(OCCCBr)C=C1 | C9H10BrFO
product | 1-[1-(4-fluorophenoxypropyl)-piperdin-4-yl]-6-bromoindoline | 2.2 g, yield: 90% | FC1=CC=C(OCCCN2CCC(CC2)N2CCC3=CC=C(C=C23)Br)C=C1 | C22H26BrFN2O
